US05470845
C. 4-[(5-Methyl-4-hexenyl)oxy]benzenepropanoic acid, ethyl ester
To a stirred solution of 1.14 g (10.0 mmol) of Part B compound, 1.94 g (10.0 mmol) of ethyl 4-hydroxyphenyl-3-propanoate and 2.62 g (10.0 mmol) of triphenylphosphine in 20 mL of THF at -10° C. under nitrogen was added a solution 2.0 mL (10 mmol) of diisopropyl diazodicarboxylate in 20 mL of THF over the course of 2 hours. The resulting light yellow solution was allowed to warm to room temperature, stirred 16 h and then evaporated. The oily residue was triturated in 500 mL of hot hexane until a precipitate formed. The solids were filtered off and treated with an additional 100 mL of hot hexane. The filtrates were combined and concentrated. Purification of the residue by flash chromatography (5×15 cm column, 1:1 dichloromethane/hexanes as elutent) gave 2.58 g, 89% yield, of title compound as a colorless oil.

reactant | ethyl 4-hydroxyphenyl-3-propanoate | 10.0 mmol, 1.94 g | OC1=CC=C(C=C1)CCC(=O)OCC | C11H14O3
reactant | triphenylphosphine | 10.0 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl diazodicarboxylate | 10 mmol, 2.0 mL | [N+](=[N-])(C(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[(5-Methyl-4-hexenyl)oxy]benzenepropanoic acid, ethyl ester | 89% yield | CC(=CCCCOC1=CC=C(C=C1)CCC(=O)OCC)C | C18H26O3
